US09371549B2
For acyl-CoA synthetase activity, the method of, for example, Kameda et al. (J. Biol. Chem. 256:5702, 1981) can be used by growing cells to mid-log phase in NSM with antibiotics as required, harvesting cells by centrifugation, washing twice with NSM, suspending the cells to a density of 1.2×109 cells/mL in 10 mM Tris-HCl, pH 7.5, and then lysing by three cycles of sonication on ice. Reaction mixtures are prepared, in a total volume of 0.5 ml, to include 200 mM Tris-HCl, pH 7.5, 2.5 mM ATP, 8 mM MgCl, 2 mM EDTA, 20 mM NaF, 0.1% Triton® X-100, 10 pM [3H]oleate, 0.5 mM coenzyme A, and cell extract. The enzyme reactions are initiated with the addition of coenzyme A, incubated at 35° C. for 10 minutes, and terminated by the addition of 2.5 ml isopropyl alcohol:n-heptane:1M H2SO4 (40:10:1). The radioactive oleic acid is removed by organic extraction using n-heptane, while oleoyl-CoA formed during the reaction remains in the aqueous fraction to be quantified by scintillation counting. Protein concentrations in the enzyme extracts are determined using the Bradford assay with bovine serum albumin as a standard.

reactant | Tris-HCl | 200 mM | C(C(CO)(CO)N)O.Cl
reactant | ATP | 2.5 mM, pH 7.5 | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | EDTA | 2 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | NaF | 20 mM | [F-].[Na+]
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | coenzyme A | 0.5 mM | [C@@H]1([C@H](O)[C@H](OP(=O)(O)O)[C@@H](COP(=O)(O)OP(=O)(O)OCC(C)(C)[C@@H](O)C(=O)NCCC(=O)NCCS)O1)N1C=NC=2C(N)=NC=NC12 | C21H36N7O16P3S
product | oleoyl-CoA | C(CCCCCCC\C=C/CCCCCCCC)(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C39H68N7O17P3S
